US06194406B1
Combine 1-ethoxycarbonyl[1,4]diazepane (18.0 g, 104 mmol) and 2-chlorobenzimidazole (7.93 g, 52 mmol). Heat to 130° C. After 4 hours, cool to ambient temperature and add hot methanol to dissolve the reaction mixture. Add a saturated aqueous solution of sodium bicarbonate (150 mL) and concentrate in vacuo to remove most of the methanol. Combine the aqueous reaction mixture and 95/5 diethyl ether/ethyl acetate. Separate the aqueous layer and extract three times with dichloromethane. Combine the dichloromethane layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Triturate the residue with ethyl acetate (100 mL) to give a solid. Chromatograph on silica gel eluting with 10% methanol/dichloromethane/0.1% concentrated aqueous ammonia to give a residue. Triturate that residue with 9/1 diethyl ether/ethyl acetate to give a solid. Collect solid by filtration and dry in vacuo to give 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane: mp; 161-162° C.

reactant | 1-ethoxycarbonyl[1,4]diazepane | 104 mmol, 18.0 g | C(C)OC(=O)N1CCNCCC1 | C8H16N2O2
reactant | 2-chlorobenzimidazole | 52 mmol, 7.93 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | methanol | CO | CH4O
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | methanol dichloromethane | CO.ClCCl
product | 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C15H20N4O2
